US06833387B1
N-(3,4-Dichlorobenzyl)-3-benzylthioindole-2-carboxylic acid (Compound 5)
Ethyl N-(3,4-dichlorobenzyl)-3-benzylthioindole-2-carboxylate (0.31 g) was dissolved in THF/methanol (1:1) and sodium hydroxide (2M, 2.0 ml) was added and the reaction stirred for 16 hours. The reaction was then concentrated in vacuo and the residue dissolved in water. The solution was acidified by dropwise addition of acetic acid, resulting in the precipitation of a white solid which was filtered, washed with water and dried in vacuo to give the desired end product (0.082 g, 28%); NMR d (CD3SOCD3) 4.04 (s, 2H), 5.72 (s, 2H), 6.83-7.62 (m, 12H); M/z (−) 442 (M+), 440, 428, 398, 396, 307, 305.

reactant | Ethyl N-(3,4-dichlorobenzyl)-3-benzylthioindole-2-carboxylate | 0.31 g | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)CC2=CC=CC=C2)C(=S)OCC)C=CC1Cl | C25H21Cl2NOS
reactant | sodium hydroxide | 2M, 2.0 ml | [OH-].[Na+]
solvent | THF methanol | C1CCOC1.CO
product | N-(3,4-Dichlorobenzyl)-3-benzylthioindole-2-carboxylic acid | 0.082 g, 28% | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)CC2=CC=CC=C2)C(=S)O)C=CC1Cl | C23H17Cl2NOS
